US03997588
A solution consisting of 1.6 parts of [(tetrahydro-2H-pyran-2-ylidene)methyl]triphenylphosphonium bromide in 25 parts by volume of 48% hydrobromic acid is heated at the reflux temperature for about 5 hours, then is stripped of solvent under reduced pressure to afford the crude product as an amber colored oil. Trituration of that oily material with benzene, followed by evaporation of the benzene under an atmosphere of nitrogen affords (6-bromo-2-oxohexyl)triphenylphosphonium bromide. This product exhibits 60-MHz nuclear magnetic resonance peaks in CDCl3 (deuterated chloroform) at about 100 cps (multiplet), 180 cps (multiplet), 200 cps (multiplet), 357 cps (doublet, J≃12 cps) in addition to the aromatic protons.

reactant | [(tetrahydro-2H-pyran-2-ylidene)methyl]triphenylphosphonium bromide | [Br-].O1C(CCCC1)=C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | hydrobromic acid | Br | BrH
product | (6-bromo-2-oxohexyl)triphenylphosphonium bromide | [Br-].BrCCCCC(C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | InChI=1S/C24H25BrOP.BrH/c25-19-11-10-12-21(26)20-27(22-13-4-1-5-14-22,23-15-6-2-7-16-23)24-17-8-3-9-18-24;/h1-9,13-18H,10-12,19-20H2;1H/q+1;/p-1
